US08975256B2
8-(5-Fluoro-2-methylphenoxymethyl)-7-(2-methoxy-4-trifluoromethoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 6-1)
A mixture of 7-bromo-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 8-1, 49.7 mg, 0.122 mmol), 2-methoxy-4-trifluoromethoxyphenylboronic acid (58.1 mg, 0.246 mmol), cessium carbonate (119 mg, 0.36 mmol) and bis(triphenylphosphin)palladium(II)dichloride (12.0 mg, 0.0171 mmol) was suspended in anhydrous N,N-dimethylformamide (0.5 ml) and stirred at 80° C. for 2 hours under argon atmosphere. After cooling down, ethyl acetate (100 mL) and water (100 mL) was added and partitioned. The organic layer was washed with saturated brine (50 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (52.7 mg) as a colorless amorphous product. (Yield 58%)

reactant | 7-bromo-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 0.122 mmol, 49.7 mg | BrC1=CC=C2NC(C(N(C2=C1COC1=C(C=CC(=C1)F)C)C)=O)(C)C | C19H20BrFN2O2
reactant | 2-methoxy-4-trifluoromethoxyphenylboronic acid | 0.246 mmol, 58.1 mg | COC1=C(C=CC(=C1)OC(F)(F)F)B(O)O | C8H8BF3O4
reactant | carbonate | 0.36 mmol, 119 mg | C([O-])([O-])=O
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphin)palladium(II)dichloride | 0.0171 mmol, 12.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | water | 100 mL | O | H2O
product | 8-(5-Fluoro-2-methylphenoxymethyl)-7-(2-methoxy-4-trifluoromethoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 52.7 mg, Yield 58% | FC=1C=CC(=C(OCC=2C(=CC=C3NC(C(N(C23)C)=O)(C)C)C2=C(C=C(C=C2)OC(F)(F)F)OC)C1)C | C27H26F4N2O4
